US04994569
(E)-N-Cinnamyl-3-furancarboxamide may be obtained in the following manner: working as in Example 21 for the preparation of (E)-3-chloro-N-cinnamylbenzamide, but starting with 3-furancarboxylic acid (4 g) and (E)-cinnamylamine (4 g), and after recrystallization in isopropyl ether, (E)-N-cinnamyl-3-furancarboxamide (3.9 g), m.p. 115° C. is obtained.

reactant | (E)-3-chloro-N-cinnamylbenzamide | ClC=1C=C(C(=O)NC\C=C\C2=CC=CC=C2)C=CC1 | C16H14ClNO
reactant | 3-furancarboxylic acid | 4 g | O1C=C(C=C1)C(=O)O | C5H4O3
reactant | (E)-cinnamylamine | 4 g | C(\C=C\C1=CC=CC=C1)N | C9H11N
product | (E)-N-cinnamyl-3-furancarboxamide | 3.9 g | C(\C=C\C1=CC=CC=C1)NC(=O)C1=COC=C1 | C14H13NO2
